US06660759B1
To a solution of benzyl (2R, 4S)-4-acetoxy-2-(4,5-diphenyloxazol-2-yl)pyrrolidine-1-carboxylate (1.49 g) in MeCN (15 mL) was added 28% sodium methylate in MeOH (0.72 mL) at 5° C., and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added 1N HCl (3.8 mL) under ice-cooling, and extracted with EtOAc. The organic layer was washed with water, saturated sodium hydrogen carbonate solution, water and brine, dried (MgSO4), and evaporated in vacuo. The residue was purified by silica gal column chromatography (hexane-EtOAc, 1:3 elution) to give benzyl (2R, 4S)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidine-1-carboxylate (980.8 mg).

reactant | benzyl (2R, 4S)-4-acetoxy-2-(4,5-diphenyloxazol-2-yl)pyrrolidine-1-carboxylate | 1.49 g | C(C)(=O)O[C@H]1C[C@@H](N(C1)C(=O)OCC1=CC=CC=C1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H26N2O5
reactant | sodium methylate | C[O-].[Na+]
reactant | HCl | 1N, 3.8 mL | Cl | ClH
solvent | MeCN | 15 mL | CC#N | C2H3N
solvent | MeOH | 0.72 mL | CO | CH4O
product | benzyl (2R, 4S)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidine-1-carboxylate | 980.8 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1N(C[C@H](C1)O)C(=O)OCC1=CC=CC=C1 | C27H24N2O4
